US06699992B2
0.1 mol of 3,5-difluoro-2,4,6-trichlorobromobenzene, powder of magnesium (0.11 mol), cuprous chloride (0.12 mol) in 120 ml of THF were stirred at room temperature until the reaction mixture appeared black, which showed the reaction had been initiated. The reaction then was quickly cooled to −30±10° C. GLC was used to monitored the reaction to the completion. Then, to the reaction mixture was added dropwise 11.78 g of acetyl chloride (0.27 mol) in 25 ml of toluene. The reaction was carried out at −30±10° C. for 8 hours. The reaction was then heated to room temperature and stirred for 3 hours. The reactant was poured into 150 g of crushed ice containing 75 ml of 25% sulfuric acid solution and stirred for 5 minutes. The organic layer was separated. The aqueous layer was extracted with toluene. The combined organic layers were washed with aqueous solution (45 ml) of NaCl, aqueous solution (44 ml) of NaHCO3, water (45 ml) and saturated aquoues solution (25 ml) of NaCl, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized form ethanol to give 0.0819 mol of 3,5-difluoro-2,4,6-trichloroacteylbenzene in 81.9% yield, mp. 73-76° C.

reactant | 3,5-difluoro-2,4,6-trichlorobromobenzene | 0.1 mol | FC=1C(=C(C(=C(C1Cl)F)Cl)Br)Cl | C6BrCl3F2
reactant | magnesium | 0.11 mol | [Mg] | Mg
reactant | acetyl chloride | 0.27 mol, 11.78 g | C(C)(=O)Cl | C2H3ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-difluoro-2,4,6-trichloroacteylbenzene | 0.0819 mol, 81.9% yield | FC=1C=C(C(=C(C1Cl)F)Cl)C(CCl)=O | C8H3Cl3F2O
